US04933355
Ethyl 2-(3-p-nitrophenylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 4.88 g of ethyl 2-aminothiazol-4-ylglyoxylate, 5 g of p-nitrophenyl isocyanate and 30 ml of dimethylformamide. The resulting product was a pale yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 4.88 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | p-nitrophenyl isocyanate | 5 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-p-nitrophenylureido)thiazol-4-ylglyoxylate | [N+](=O)([O-])C1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12N4O6S
